US04985550
In a second step the treatment of 0.5 g (0.4 mmol) of the intermediate product 40 dissolved in 4 ml of ethyl alcohol by a trifluoroacetic acid-water mixture (5/1 v/v) yields 0.32 g (70%) of 3,4-di-O-|3'-(F-octyl)-propanoyl|-D-mannitol, 41.

reactant | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
solvent | ethyl alcohol | 4 ml | C(C)O | C2H6O
product | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
